US04393059
Thiourea (0.18 g.) was added to a suspension of 4-nitrobenzyl 7-[2-(2-bromoacetyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer: 105 g.) in ethanol (25 ml.), tetrahydrofuran (25 ml.) and water (5 ml.), and stirred at room temperature for 4 hours. The resultant solution was concentrated under reduced pressure and cooled. The residue was crystallized by treating with a mixture of tetrahydrofuran and ethyl acetate, and collected by filtration to give 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer: 0.95 g.), colorless crystals, mp 172° to 175° C. (dec.).

reactant | Thiourea | 0.18 g | NC(=S)N | CH4N2S
reactant | 4-nitrobenzyl 7-[2-(2-bromoacetyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate | 105 g | BrCC(=O)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NO | C18H15BrN4O8S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate | 0.95 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NO | C19H16N6O7S2
